US05811389
The crude 10-benzyl-3,7-dimethoxyphenothiazine-4-carbaldehyde obtained was dissolved in 150 ml of absolute tetrahydrofuran, whereupon the solution was treated at 0° with 31.5 ml of lithium borohydride solution (1M in tetrahydrofuran). The reaction mixture was brought slowly to room temperature, stirred for 1 hour and then poured into ice-water, and the pH was adjusted to 3-4 with 0.5N hydrochloric acid solution. The mixture was extracted with ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. After chromatography on silica gel with ethyl acetate/hexane (1:2) 8.0 g (73.7%) of (10-benzyl-3,7-dimethoxy-phenothiazin-4-yl)-methanol were obtained as a white amorphous solid.

reactant | 10-benzyl-3,7-dimethoxyphenothiazine-4-carbaldehyde | C(C1=CC=CC=C1)N1C2=CC=C(C=C2SC=2C(=C(C=CC12)OC)C=O)OC | C22H19NO3S
reactant | lithium borohydride | 1M, 31.5 ml | [BH4-].[Li+]
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (10-benzyl-3,7-dimethoxy-phenothiazin-4-yl)-methanol | C(C1=CC=CC=C1)N1C2=CC=C(C=C2SC=2C(=C(C=CC12)OC)CO)OC | C22H21NO3S
